US05283361
D. 2-(4-fluorophenylthio)-6-fluorobenzaldehyde
Pyridinium dichromate (8.34 g, 22.2 mmol) is suspended in 30 ml of methylene chloride. A solution of 2-(4-fluorophenylthio)-6-fluorobenzyl alcohol (3.73 g, 14.8 mmol) in 10 ml of methylene chloride is then added dropwise to the suspension. The reaction mixture is then stirred overnight. The reaction mixture is filtered through diatomaceous earth (Celite®) and then through silica gel to afford the subtitle compound. m.p. 94°-97° C.

reactant | Pyridinium dichromate | 22.2 mmol, 8.34 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 2-(4-fluorophenylthio)-6-fluorobenzyl alcohol | 14.8 mmol, 3.73 g | FC1=CC=C(C=C1)SC1=C(CO)C(=CC=C1)F | C13H10F2OS
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-fluorophenylthio)-6-fluorobenzaldehyde | FC1=CC=C(C=C1)SC1=C(C=O)C(=CC=C1)F | C13H8F2OS
